US05547949
Preparation of 21-{4-[2-(1-adamantylamino)-6-pyrrolidino-4-pyrimidinyl]-1-piperazinyl}-16α-methylpregna-1,4,9(11)-triene-3,20-dione
The reaction of 21-(4-bromobenzenesulfonyloxy)-16α-methylpregna-1,4,9(11)-triene-3,20-dione with 2-(1-adamantylamino)-4-(1-piperazinyl)-6-pyrrolidinopyrimidine as described in Example 6 gives the title compound in a yield of 79.94%, m.p.:155°-172° C.

reactant | 21-(4-bromobenzenesulfonyloxy)-16α-methylpregna-1,4,9(11)-triene-3,20-dione | BrC1=CC=C(C=C1)S(=O)(=O)OCC([C@H]1[C@@H](C[C@H]2[C@@H]3CCC4=CC(C=C[C@]4(C)C3=CC[C@]12C)=O)C)=O | C28H31BrO5S
reactant | 2-(1-adamantylamino)-4-(1-piperazinyl)-6-pyrrolidinopyrimidine | C12(CC3CC(CC(C1)C3)C2)NC2=NC(=CC(=N2)N2CCNCC2)N2CCCC2 | C22H34N6
product | 21-{4-[2-(1-adamantylamino)-6-pyrrolidino-4-pyrimidinyl]-1-piperazinyl}-16α-methylpregna-1,4,9(11)-triene-3,20-dione | yield of 79.94% | C12(CC3CC(CC(C1)C3)C2)NC2=NC(=CC(=N2)N2CCN(CC2)CC([C@H]2[C@@H](C[C@H]3[C@@H]1CCC4=CC(C=C[C@]4(C)C1=CC[C@]23C)=O)C)=O)N2CCCC2 | C44H60N6O2
